US07166599B2
2-(3,4-dichlorophenylamino)-4-methylamino-5-(3-methyl-imidazolidin-2-on-1-yl)-pyrimidine
300 mg of 2-(3,4-dichlorophenylamino)-4-methylamino-5-[[N-methyl-(2-hydroxyethyl)-amino]carbonylamino]-pyrimidine and 205 mg of triphenylphosphine in 6 ml of tetrahydrofuran are combined with 0.13 ml of diethyl azodicarboxylate and stirred overnight at ambient temperature. The reaction mixture is purified by chromatography through a silica gel column with ethyl acetate/methanol/conc. aqueous ammonia (19:1:0.5).

reactant | 2-(3,4-dichlorophenylamino)-4-methylamino-5-[[N-methyl-(2-hydroxyethyl)-amino]carbonylamino]-pyrimidine | 300 mg | ClC=1C=C(C=CC1Cl)NC1=NC=C(C(=N1)NC)NC(=O)N(C)CCO | C15H18Cl2N6O2
reactant | triphenylphosphine | 205 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.13 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-(3,4-dichlorophenylamino)-4-methylamino-5-(3-methyl-imidazolidin-2-on-1-yl)-pyrimidine | ClC=1C=C(C=CC1Cl)NC1=NC=C(C(=N1)NC)N1C(N(CC1)C)=O | C15H16Cl2N6O
